US04310398
(B3) Vinyl isocyanate/ε-caprolactam adduct
113 parts of ε-caprolactam and 91 parts of ethyl acetate (+0.015% of dibutyl-tin dilaurate) are introduced into a reaction vessel and heated to about 50° C. A mixture of 69 parts of vinyl isocyanate and 91 parts of ethyl acetate is then added dropwise in the course of 1 hour. The reaction is then allowed to continue for 5 hours. A light yellow clear solution is obtained. Blocked isocyanate content: 11.5%.

reactant | ε-caprolactam | C1(CCCCCN1)=O | C6H11NO
reactant | vinyl isocyanate | C(=C)N=C=O | C3H3NO
reactant | isocyanate | [N-]=C=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Vinyl isocyanate ε-caprolactam | C(=C)N=C=O.C1(CCCCCN1)=O | InChI=1S/C6H11NO.C3H3NO/c8-6-4-2-1-3-5-7-6;1-2-4-3-5/h1-5H2,(H,7,8);2H,1H2
